US07320995B2
2-amino-benzothiazole-6-carboxaldehyde
Under nitrogen atmosphere, slowly add phenyl lithium (5 mL, 9.16 mmol, 2.1 equiv from a solution 1.8 M in cyclohexane/ether, 70/30) to a cold (−78° C.) solution of commercially available 2-bromo benzothiazole in 30 mL of dry THF. After the addition is complete stir the mixture for 5 minutes and add t-butyl lithium (5.6 mL, 9.16 mmol, 2.1 equiv from a solution 1.7 M in pentane). The mixture will turn from a creamy white color to green over 1 hour. At this point, rapidly add formyl piperidine (2.4 mL, 21.8 mmol, 5 equiv) dropwise and warm the mixture slowly to (>1 hour) 0° C. Quench the reaction into a mixture of cold saturated NH4Cl and extract with EtOAc. Separate the phases and back extract the organic one with more EtOAc (three times). Dry the combined organic phases over MgSO4, filter and concentrate in vacuo to afford the ldehyde (50% yield).

reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | 2-bromo benzothiazole | BrC=1SC2=C(N1)C=CC=C2 | C7H4BrNS
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | formyl piperidine | 21.8 mmol, 2.4 mL, 5 equiv | C(=O)N1CCCCC1 | C6H11NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | cyclohexane ether | C1CCCCC1.CCOCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2-amino-benzothiazole-6-carboxaldehyde | 50% yield | NC=1SC2=C(N1)C=CC(=C2)C=O | C8H6N2OS
